US08461134B2
2-(5-Amino-2-(N-(5-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetamide
To the solution of methyl 2-(2-(N-(5-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-5-(2,2,2-trifluoroacetamido)phenyl)acetate (480 mg, 1 mmol) in methanol (5 ml), added ammonia hydroxide (2 ml), heated at 100° C. in a sealed tube overnight. The result mixture was concentrated, then dissolved in DMSO and purified by prep HPLC (SunFire Prep C18 OBD 5 uM 30×50 mm column). The title compound was obtained as yellow solid. MS calcd for (C15H15BN3O5FS): 379.17. MS found (ESI negative): (M−H)−=378.1. 1H NMR (400 MHz, DMSO-d6) δ (ppm): 9.64 (s, 1H), 9.20 (bs, 1H), 7.53 (d, J=8 Hz, 1H), 7.34 (s, 1H), 7.25 (d, J=8.8 Hz, 1H), 7.13 (d, J=10.4 Hz, 1H), 7.04 (s, 1H), 6.45 (d, J=2 Hz, 1H), 6.29 (dd, J=8.8 Hz, 1H), 4.82 (s, 2H).

reactant | methyl 2-(2-(N-(5-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-5-(2,2,2-trifluoroacetamido)phenyl)acetate | 1 mmol, 480 mg | FC1=CC2=C(B(OC2)O)C=C1NS(=O)(=O)C1=C(C=C(C=C1)NC(C(F)(F)F)=O)CC(=O)OC | C18H15BF4N2O7S
reactant | ammonia hydroxide | 2 ml | [OH-].N
solvent | methanol | 5 ml | CO | CH4O
product | 2-(5-Amino-2-(N-(5-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetamide | NC=1C=CC(=C(C1)CC(=O)N)S(NC=1C(=CC2=C(B(OC2)O)C1)F)(=O)=O | C15H15BFN3O5S
